US05840751
5,6-Dihydro-3-(2-sec-butylphenylthio)-4-hydroxy-6-phenyl-6-(2-phenylethyl)-2H-pyran-2-one (+/-)
The title compound was prepared as described in General Method 6 from 2.0 mmol of 3-bromo-5,6-dihydro-4-hydroxy-6-phenyl-6-(2-phenylethyl)-2H-pyran-2-one (prepared in example BBB), 2.1 mmol of 2-sec-butylbenzenethiol, and 2.1 mmol of piperidine in 25 mL of dichloromethane. The product was chromatographed on silica gel, eluting first with chloroform and then with 5% methanol in chloroform, to give the title compound (m.p. 67°-68° C.). 1H NMR (DMSO-d6) δ 0.82 (q, 3 H), 1.09 (t, 3 H), 1.46-1.61 (m, 2 H), 2.26 (m, 2 H), 2.35 (m, 1 H), 2.62 (m, 1 H), 2.98 (m, 1 H), 3.47 (q, 2 H), 5.90 (t, 1 H), 6.56 (t, 1 H), 6.94 (t, 1 H), 7.07-7.18 (m, 4 H), 7.25 (m, 2 H), 7.45 (m, 5 H).

reactant | 3-bromo-5,6-dihydro-4-hydroxy-6-phenyl-6-(2-phenylethyl)-2H-pyran-2-one | 2.0 mmol | BrC=1C(OC(CC1O)(CCC1=CC=CC=C1)C1=CC=CC=C1)=O | C19H17BrO3
reactant | 2-sec-butylbenzenethiol | 2.1 mmol | C(C)(CC)C1=C(C=CC=C1)S | C10H14S
reactant | piperidine | 2.1 mmol | N1CCCCC1 | C5H11N
solvent | dichloromethane | 25 mL | ClCCl | CH2Cl2
product | 5,6-Dihydro-3-(2-sec-butylphenylthio)-4-hydroxy-6-phenyl-6-(2-phenylethyl)-2H-pyran-2-one | C(C)(CC)C1=C(C=CC=C1)SC=1C(OC(CC1O)(CCC1=CC=CC=C1)C1=CC=CC=C1)=O | C29H30O3S
